* Z:\home\ostoja\Elektronika\peak_detector\simulacije\test_the_tee.asc
V1 5V 0 5
V2 -5V 0 -5
R1 0 N010 1Meg
C1 N010 0 1n
V3 N008 0 SINE(10 1 1Meg)
Q1 N007 N004 N010 0 2N3904
V4 8.5V 0 8.5
V5 -8.5V 0 -8.5
R4 N007 8.5V 1k
Q2 N001 N004 N005 0 2N3904
R§1k N001 8.5V 200
R2 N005 -8.5V 50k
R6 N002 0 10k
R7 N003 N002 10k
XU1 N006 N005 5V -5V N004 AD8009an
XU2 N010 N002 8.5V -5V N003 TL072
C2 N003 N002 1n
C3 N009 N008 100n
R3 0 N009 10Meg
XU3 N009 N006 8.5V -5V N006 TL072
.model NPN NPN
.model PNP PNP
.lib C:\users\ostoja\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 100m 0 1n
.lib ad8009(2).cir
.lib MCP6496_A.txt
* need faster slew rate
* trim
.lib TL072.cir
.backanno
.end
